US08039463B2
HOBt (245 mg, 1.8 mmol), DMAP (370 mg, 3.0 mmol), EDCI.HCl (348 mg, 1.8 mmol) followed by biphenyl-4-ylamine (307 mg, 1.8 mmol) were added to a stirred solution of 2-methyl-malonic acid monomethyl ester (200 mg, 1.5 mmol) in DMF (3 mL) and the resulting mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with water and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with brine solution and concentrated under reduced pressure to afford 330 mg (77%) of N-biphenyl-4-yl-2-Methyl-malonamic acid methyl ester.

reactant | HOBt | 1.8 mmol, 245 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 1.8 mmol, 348 mg | CCN=C=NCCCN(C)C.Cl
reactant | biphenyl-4-ylamine | 1.8 mmol, 307 mg | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | 2-methyl-malonic acid monomethyl ester | 1.5 mmol, 200 mg | COC(C(C(=O)O)C)=O | C5H8O4
catalyst | DMAP | 3.0 mmol, 370 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-2-Methyl-malonamic acid methyl ester | 330 mg, 77% | COC(C(C(=O)NC1=CC=C(C=C1)C1=CC=CC=C1)C)=O | C17H17NO3
